US04535086
4.50 g of [1-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)ethyl]triphenylphosphonium bromide and 1.3 g of ethyl 5-formyl-3-methylpenta-2,4-dienoate are dissolved in 70 ml of butylene oxide and the solution is heated at reflux for 2 hours. The cooled mixture is poured into a methanol/water mixture (6:4) and extracted several times with hexane. The hexane phase is washed three times with water, dried and evaporated. After filtration of the crude product over silica gel (eluting agent hexane/ether 9:1), there are obtained 2.4 g of ethyl 3-methyl-7-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)-2,4,6-octatrienoate as a pale yellowish oil.

reactant | [1-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)ethyl]triphenylphosphonium bromide | 4.50 g | [Br-].CC1(CCC(C=2SC(=CC21)C(C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(C)C)C
reactant | ethyl 5-formyl-3-methylpenta-2,4-dienoate | 1.3 g | C(=O)C=CC(=CC(=O)OCC)C | C9H12O3
reactant | methanol water | CO.O
solvent | butylene oxide | 70 ml | C1CCCO1 | C4H8O
product | ethyl 3-methyl-7-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)-2,4,6-octatrienoate | 2.4 g | CC(=CC(=O)OCC)C=CC=C(C)C1=CC2=C(S1)C(CCC2(C)C)(C)C | C23H32O2S
